US05484689
Phenylglyoxal monohydrate (304 mg, 2 mM) and cumene (0.56 ml, 4 mM) were dissolved in dichloroethane (4 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 4 hours. Using the same procedure as in Example 1, 4'-iso-propylbenzoin was obtained as crystal (300.6 mg, 59.6% yield).

reactant | Phenylglyoxal monohydrate | 2 mM, 304 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | cumene | 4 mM, 0.56 ml | C1(=CC=CC=C1)C(C)C | C9H12
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4'-iso-propylbenzoin | C(C)(C)C1=CC=C(C(C(C2=CC=CC=C2)=O)O)C=C1 | C17H18O2
